US07645789B2
To a solution of 1-(3-amino-4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester (2.0 g, 9.6 mmol) in THF (40 mL) was added triphosgene (4.2 g, 14 mmol) at room temperature. The mixture was stirred for 20 minutes at this temperature before water (20 mL) was added dropwise at 0° C. The resulting mixture was extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give 1-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-cyclopropanecarboxylic acid methyl ester (2.0 g, 91%), which was directly used in the next step. 1H NMR (CDCl3, 300 MHz) δ 8.66 (s, 1H), 7.13-7.12 (m, 2H), 7.07 (s, 1H), 3.66 (s, 3H), 1.68-1.65 (m, 2H), 1.24-1.20 (m, 2H).

reactant | 1-(3-amino-4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 9.6 mmol, 2.0 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)N | C11H13NO3
reactant | triphosgene | 14 mmol, 4.2 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | 20 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-cyclopropanecarboxylic acid methyl ester | 2.0 g, 91% | COC(=O)C1(CC1)C=1C=CC2=C(NC(O2)=O)C1 | C12H11NO4
